US08283353B2
4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile
To a solution (10 mL) of diethylzinc (1.0 M hexane solution, 5.3 mL) in methylene chloride was added a solution (5 mL) of chloro(iodo)methane (0.38 mL) in methylene chloride at 0° C., and the mixture was stirred at the same temperature for 10 min. A solution (5 mL) of 4′-[(4-{trans-4-[(2-{[tert-butyl(dimethyl)silyl]oxy}prop-2-en-1-yl)oxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.5 g) in methylene chloride was added to the reaction mixture, and the mixture was further stirred at room temperature for 3 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.26 g, 52%).

reactant | diethylzinc | 1.0 M, 10 mL | C(C)[Zn]CC
reactant | chloro(iodo)methane | 5 mL | ClCI | CH2ClI
reactant | 4′-[(4-{trans-4-[(2-{[tert-butyl(dimethyl)silyl]oxy}prop-2-en-1-yl)oxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 5 mL, 0.5 g | [Si](C)(C)(C(C)(C)C)OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C)=C | C38H49N5O3Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4′-[(4-{trans-4-[(1-{[tert-butyl(dimethyl)silyl]oxy}cyclopropyl)methoxy]cyclohexyl}-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.26 g, 52% | [Si](C)(C)(C(C)(C)C)OC1(CC1)CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C | C39H51N5O3Si
